US08957203B2
To a solution of 2-chloro-7-fluoroquinoxaline (0.1 g, 0.54 mmol) in methanol (15 ml) was added sodium methoxide (0.29 g, 0.54 mmol) at room temperature under nitrogen atmosphere. The reaction mass was heated at reflux for 3 h. The solvent was evaporated under reduced pressure and the residue was diluted with DCM and washed with water. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to get crude compound 7-fluoro-2-methoxyquinoxaline (0.09 g, 88% yield) as white solid. 1H NMR (400 MHz, CDCl3): δ ppm 8.41 (s, 1H), 8.01-7.98 (d, J=12 Hz, 1H), 7.49-7.46 (d, J=12 Hz, 2H), 7.34-7.3 (m, 1H), 4.09-4 (s, 3H); 19F NMR: δ ppm −108.99 (1F).

reactant | 2-chloro-7-fluoroquinoxaline | 0.54 mmol, 0.1 g | ClC1=NC2=CC(=CC=C2N=C1)F | C8H4ClFN2
reactant | sodium methoxide | 0.54 mmol, 0.29 g | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 7-fluoro-2-methoxyquinoxaline | 0.09 g, 88% yield | FC1=CC=C2N=CC(=NC2=C1)OC | C9H7FN2O
